US08258175B2
Dry DCM (25 mL) was added to 2-[4-(2-trimethylsilanylethoxymethoxy)benzoyl]-benzoic acid methyl ester (3.8 g, 9.8 mmol) followed by potassium trimethylsilanolate (1.53 g, 10.8 mmol). The system was stirred at room temperature under nitrogen for 16 h and monitored by TLC. Removal of the solvent gave a light yellow oil that was taken up into ethyl acetate (100 mL), washed with 5% HCl solution (3×30 mL), brine (30 mL) and dried with MgSO4. The solvent was removed to give 2-[4-(2-trimethylsilanylethoxymethoxy)benzoyl]benzoic acid as a yellow oil (3.66 g, 9.8 mmol, 99%); Rf 0.1 (40:60 EtOAc:petrol). λmax (CH3OH)/nm 276, 217, Abs 1.799, 2.108 respectively. IR: 3215, 3177, 1666, 1593 cm−1. 1H NMR: (300 MHz, CDCl3) δ 0.00 (s, 9H, Si—(CH3)3), 0.96 (m, 2H, R—O—CH2—CH2—Si), 3.76 (m, 2H, O—CH2—CH2—Si), 5.27 (s, 2H, O—CH2—O), 7.04 (m, 2H, Ar—H), 7.34 (m, 1H, Ar—H), 7.52-7.68 (dtd, 2H, J=30.2, 7.6, 1.3 Hz, Ar—H), 7.69 (m, 2H, Ar—H), 8.07 (m, 1H, Ar—H), 10.31 (bs, 1H, COOH). 13C NMR: (75 MHz, CDCl3) δ −3.2, 16.1, 64.8, 90.7, 113.8, 125.7, 126, 127.4, 128.8, 129.1, 129.9, 131.2, 140.9, 159.6, 168.8, 194. LC/MS-ES+ m/z 297.1, 373.1 [MH+]. HRMS (EI) m/z Calcd. for C20H24O5Si: 372.1393. Found 372.1387

reactant | DCM | 25 mL | C(Cl)Cl | CH2Cl2
reactant | 2-[4-(2-trimethylsilanylethoxymethoxy)benzoyl]-benzoic acid methyl ester | 9.8 mmol, 3.8 g | COC(C1=C(C=CC=C1)C(C1=CC=C(C=C1)OCOCC[Si](C)(C)C)=O)=O | C21H26O5Si
reactant | potassium trimethylsilanolate | 10.8 mmol, 1.53 g | C[Si]([O-])(C)C.[K+]
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2-[4-(2-trimethylsilanylethoxymethoxy)benzoyl]benzoic acid | 9.8 mmol, 3.66 g, 99% | C[Si](CCOCOC1=CC=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=C1)(C)C | C20H24O5Si
